US05332734
284 mg of sodium carbonate and 336 mg of 6-methyl-2-(L-valylamino)benzoic acid were dissolved in a mixture consisting of 17 ml of 1,4-dioxane and 12 ml of water, followed by adding dropwise a solution of 345 mg of 9-fluorenylmethoxycarbonyl chloride in 7 ml of 1,4-dioxane under ice-cooling. After stirring for 3.5 hours at room temperature, the reaction mixture was poured into water, acidified with concentrated hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with a saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by a silica gel column chromatography (eluting solution: hexane-ethyl acetate-acetic acid) to give 460 mg of 2-{[N-(9-fluorenylmethoxy-carbonyl)-L-valyl]amino}-6-methylbenzoic acid.

reactant | sodium carbonate | 284 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 6-methyl-2-(L-valylamino)benzoic acid | 336 mg | CC1=CC=CC(=C1C(=O)O)NC([C@@H](N)C(C)C)=O | C13H18N2O3
reactant | 9-fluorenylmethoxycarbonyl chloride | 345 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 17 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | water | 12 ml | O | H2O
product | 2-{[N-(9-fluorenylmethoxy-carbonyl)-L-valyl]amino}-6-methylbenzoic acid | 460 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(C)C)C(=O)NC1=C(C(=O)O)C(=CC=C1)C | C28H28N2O5
